2160-01-28 10:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2160-1-28**] 03:04 AM
 INVASIVE VENTILATION - START [**2160-1-28**] 03:18 AM
   Remains intubated, mechanically ventilated.
   Continues to require vasopressor to maintain MAP >60.
                                       History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-28**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical Ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2160-1-28**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 54 (51 - 72) bpm
   BP: 104/62(72) {90/56(65) - 125/76(87)} mmHg
   RR: 15 (15 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   CVP: 9 (7 - 9)mmHg
   Total In:
                                                                  1,387 mL
   PO:
   TF:
   IVF:
                                                                  1,387 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    480 mL
   Urine:
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    907 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/45/92/27/0
   Ve: 5.8 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   12.7 g/dL
   311 K/uL
   232 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.7 mEq/L
   21 mg/dL
   105 mEq/L
   137 mEq/L
   36.1 %
   13.2 K/uL
        [image002.jpg]
                            [**2160-1-28**]  04:00 AM
                            [**2160-1-28**]  06:15 AM
   WBC
   13.2
   Hct
   36.1
   Plt
   311
   Cr
   1.0
   TCO2
   27
   Glucose
   232
   Other labs: PT / PTT / INR:15.5/37.2/1.4, Differential-Neuts:92.8 %,
   Lymph:4.9 %, Mono:2.0 %, Eos:0.1 %, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL,
   PO4:1.9 mg/dL
   Assessment and Plan
   Respiratory failure, COPD exacerbation.
   RESPIRATORY FAILURE -- hypercarbic respiratory distress.  Remains
   intubated, mechanically ventilated.  Attributed to COPD exacerbation,
   with evidence for multilobar pneumonia.  continue mechanical
   ventilation.  Monitor ABG, maintain Ph < 7.35, pO2 < 60, SaO2 < 90.
   COPD -- exacerbation.  continue medications, including steroids.
   PULMONARY INFILTRATES -- suspect community acquired pneumonia.
   Multifocal, concerns include usual pyogenic, atypicals (including
   viral).
   HYPOTENSION -- persistent.  Component of hypovolemia, sedation, but
   concern for sepsis.  Continue support, empirical antimicrobials.  Goal
   MAP >60 mmHg. Check lactic acid.
   FLUIDS -- hypovolemia.  Replete.  Monitor I/O.
   NUTRITIONAL SUPPORT -- initiate TF.
   PULMONARY HTN -- Clinically stable.  Contributing to hypoxemia.
   HYPERGLYCEMIA -- attributed in part to steroids.  Monitor glucose,
   maintain <150 with insulin prn.
   SCHIZOPHRENIA -- continue usual meds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-1-28**] 03:04 AM
   20 Gauge - [**2160-1-28**] 03:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2160-01-29 08:03:00 Physician Resident Progress Note
Chief Complaint: SOB, hypotension
   24 Hour Events:
   - Added Zosyn for multilobar PNA coverage
   - Weaned levophed off with IVFs (MAPs remained > 60)
   - advanced et tube 3 cm - CXR OK
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-28**] 07:40 PM
   Piperacillin - [**2160-1-29**] 03:46 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-1-29**] 07:37 AM
   Pantoprazole (Protonix) - [**2160-1-29**] 07:38 AM
   Other medications:
   Olanzapine 5 mg PO daily
   Solumedrol 40 mg IV q8H
   Senna
   Colace
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: None
   Respiratory: denies SOB
   Flowsheet Data as of  [**2160-1-29**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.5
C (95.9
   HR: 38 (38 - 71) bpm
   BP: 100/57(68) {82/43(53) - 133/98(102)} mmHg
   RR: 14 (10 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
    CVP: 18 (12 - 18)mmHg
   Total In:
                                                                  5,278 mL
                                                                  2,479 mL
   PO:
   TF:
                                                                    220 mL
                                                                    107 mL
   IVF:
                                                                  5,058 mL
                                                                  2,371 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    170 mL
   Urine:
                                                                    750 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,378 mL
                                                                  2,309 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 207
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.31/54/95.[**Numeric Identifier 607**]/24/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: gesturing to remove ETT
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : , Rhonchorous: )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   293 K/uL
   11.4 g/dL
   214 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.6 mEq/L
   25 mg/dL
   110 mEq/L
   140 mEq/L
   32.0 %
   11.0 K/uL
        [image002.jpg]
                            [**2160-1-28**]  04:00 AM
                            [**2160-1-28**]  06:15 AM
                            [**2160-1-28**]  12:40 PM
                            [**2160-1-28**]  03:15 PM
                            [**2160-1-28**]  11:12 PM
                            [**2160-1-29**]  04:32 AM
   WBC
   13.2
   11.0
   Hct
   36.1
   32.0
   Plt
   311
   293
   Cr
   1.0
   0.8
   0.9
   TCO2
   27
   28
   28
   Glucose
   232
   193
   206
   214
   Other labs: PT / PTT / INR:13.3/35.0/1.1, Differential-Neuts:92.8 %,
   Lymph:4.9 %, Mono:2.0 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Ca++:7.2
   mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan: 63 yo M with COPD p/w hypercarbic respiratory
   distress, likely due to COPD flare and multilobar PNA.
   RESPIRATORY FAILURE
 Patient with hypercarbic respiratory distress,
   likely in setting of COPD exacerbation and multilobar PNA.  Patient
   successfully extubated today.
   - check ABG on C-pap, maintain Ph < 7.35, pO2 < 60, SaO2 < 90.
   - continue Vancomycin and Levofloxacin for PNA
   - continue Advair nebs and Solumedrol 40 IV TID for CODP flare
   - will start steroid taper tomorrow am.
   COPD: Patient with flare. Continue nebs and steroids with planned
   taper.
   PULMONARY INFILTRATES
 multifocal CAP. Cultures currently without
   growth. Continue Vancomycin and Zosyn, will likely need emperic
   treatment.
   HYPERGLYCEMIA
 Likely steroid induced. Tighten HISS.
   SCHIZOPHRENIA -- continue Zyprexa.
   ICU Care
   Nutrition:
   Glycemic Control:  HISS
   Lines:
   Multi Lumen - [**2160-1-28**] 03:04 AM
   20 Gauge - [**2160-1-28**] 03:06 AM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer: PPI
   VAP:  extubated.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending stable respiratory status.

2160-01-29 10:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Awake, interactive,
   appropriate.  No secretions.
   Exhibited bradycardia overnight --> no hemodynamic compromise.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-28**] 07:40 PM
   Piperacillin - [**2160-1-29**] 03:46 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-1-29**] 07:37 AM
   Pantoprazole (Protonix) - [**2160-1-29**] 07:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2160-1-29**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.7
   HR: 64 (38 - 71) bpm
   BP: 111/57(70) {82/43(53) - 133/98(102)} mmHg
   RR: 30 (10 - 30) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 18 (12 - 18)mmHg
   Total In:
                                                                  5,278 mL
                                                                  2,504 mL
   PO:
   TF:
                                                                    220 mL
                                                                    107 mL
   IVF:
                                                                  5,058 mL
                                                                  2,396 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    230 mL
   Urine:
                                                                    750 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,378 mL
                                                                  2,274 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 8
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 207
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 90%
   ABG: 7.31/54/95.[**Numeric Identifier 607**]/24/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.4 g/dL
   293 K/uL
   214 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.6 mEq/L
   25 mg/dL
   110 mEq/L
   140 mEq/L
   32.0 %
   11.0 K/uL
        [image002.jpg]
                            [**2160-1-28**]  04:00 AM
                            [**2160-1-28**]  06:15 AM
                            [**2160-1-28**]  12:40 PM
                            [**2160-1-28**]  03:15 PM
                            [**2160-1-28**]  11:12 PM
                            [**2160-1-29**]  04:32 AM
   WBC
   13.2
   11.0
   Hct
   36.1
   32.0
   Plt
   311
   293
   Cr
   1.0
   0.8
   0.9
   TCO2
   27
   28
   28
   Glucose
   232
   193
   206
   214
   Other labs: PT / PTT / INR:13.3/35.0/1.1, Differential-Neuts:92.8 %,
   Lymph:4.9 %, Mono:2.0 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Ca++:7.2
   mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Respiratory failure, COPD exacerbation.
   RESPIRATORY FAILURE -- hypercarbic respiratory distress.  Remains
   intubated, mechanically ventilated.  Attributed to COPD exacerbation,
   with evidence for multilobar pneumonia.  Good progress, tolerated SBT.
   Plan to proceed with extubation trial. Monitor ABG, maintain Ph < 7.35,
   pO2 < 60, SaO2 < 90.
   COPD -- exacerbation.  continue medications, including steroids.
   PULMONARY INFILTRATES -- suspect community acquired pneumonia.
   Multifocal, concerns include usual pyogenic, atypicals (including
   viral).
   HYPOTENSION -- Improved.  Component of hypovolemia, sedation, but
   concern for sepsis.  Continue support, empirical antimicrobials.  Goal
   MAP >60 mmHg.   Monitor off vasopressor.
   FLUIDS --  Repleted.  Monitor I/O.
   NUTRITIONAL SUPPORT
 hold TF.  Advance diet following extubation.
   PULMONARY HTN -- Clinically stable.  Contributing to hypoxemia.
   HYPERGLYCEMIA -- attributed in part to steroids.  Monitor glucose,
   maintain <150 with insulin prn.
   SCHIZOPHRENIA -- continue usual meds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-1-28**] 03:04 AM
   20 Gauge - [**2160-1-28**] 03:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2160-01-30 07:50:00 Physician Resident Progress Note
Chief Complaint: 63 yo M w/ COPD and schizophrenia admitted for
   hypercarbic respiratory failure due to COPD flaire and multilobar PNA.
   24 Hour Events:
   - BS remain in high 100s to 200s despite tightened ISS
   -reintubated after ABGs continued to be acidotic
   (7.18/70/119->7.24/53/82->7.13/77/92 then re-intubated ->7.21/69/611)
   - Cre increased to 1.2 from 0.8 x48 hours => 500 cc bolus for low UOP
   (20 ccs/hr) at 1am, improved to > 30 ccs/hr
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-29**] 08:16 PM
   Piperacillin - [**2160-1-30**] 04:45 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2160-1-29**] 05:55 PM
   Midazolam (Versed) - [**2160-1-29**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2160-1-30**] 12:21 AM
   Other medications:
   Olanzapine 5 mg PO daily
   Solumedrol 40 mg IV q8H
   Combivent
   Senna
   Bisacodyl
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-1-30**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 56 (42 - 95) bpm
   BP: 96/55(64) {87/50(61) - 153/86(100)} mmHg
   RR: 17 (12 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 62 Inch
    CVP: 15 (15 - 17)mmHg
   Total In:
                                                                  3,062 mL
                                                                    950 mL
   PO:
   TF:
                                                                    107 mL
                                                                    245 mL
   IVF:
                                                                  2,955 mL
                                                                    704 mL
   Blood products:
   Total out:
                                                                    865 mL
                                                                    220 mL
   Urine:
                                                                    865 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,197 mL
                                                                    730 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 285 (285 - 285) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 145
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.21/64/61/26/-3
   Ve: 6.8 L/min
   PaO2 / FiO2: 153
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   302 K/uL
   11.1 g/dL
   179 mg/dL
   1.3 mg/dL
   26 mEq/L
   5.0 mEq/L
   33 mg/dL
   111 mEq/L
   140 mEq/L
   33.2 %
   10.8 K/uL
        [image002.jpg]
                            [**2160-1-28**]  03:15 PM
                            [**2160-1-28**]  11:12 PM
                            [**2160-1-29**]  04:32 AM
                            [**2160-1-29**]  11:43 AM
                            [**2160-1-29**]  02:12 PM
                            [**2160-1-29**]  03:58 PM
                            [**2160-1-29**]  05:01 PM
                            [**2160-1-29**]  05:21 PM
                            [**2160-1-29**]  08:12 PM
                            [**2160-1-30**]  04:50 AM
   WBC
   11.0
   10.8
   Hct
   32.0
   33.2
   Plt
   293
   302
   Cr
   0.8
   0.9
   1.2
   1.3
   TCO2
   28
   27
   27
   24
   27
   27
   Glucose
   193
   206
   214
   120
   179
   Other labs: PT / PTT / INR:12.2/41.4/1.0, Differential-Neuts:92.8 %,
   Lymph:4.9 %, Mono:2.0 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan:
   63 yo M w/ COPD and schizophrenia admitted for hypercarbic respiratory
   failure due to COPD flaire and multilobar PNA.
   RESPIRATORY FAILURE
 Patient with hypercarbic respiratory distress,
   likely in setting of COPD exacerbation and multilobar PNA.  Continued
   respiratory acidosis after extubation, requring re-intubation (may have
   some component of metabolic acidosis as well, given ARF). Unlikely
   volume overload (did also received aggressive fluid boluses to wean off
   of pressors, but appears euvolemic on exam with elevated CVP likely
   related to pulmonary hypertension, and may be volume contracted, which
   diuresis would worsen).
   - check ABG on C-pap, maintain Ph < 7.35, pO2 < 60, SaO2 < 90.
   - increase tidal volume to 550, decrease FiO2 to 0.35% (to improve
   respiratory acidosis)
   - continue Zosyn and  Levofloxacin for PNA, likely will need empiric
   treatment
   - d/c Vancomycin (2 sputums with oropharyngeal flora on GS only, no
   single organisms).
   - continue Combivent nebs and Solumedrol 40 IV TID for CODP flare
   - continue  steroids for now, re-evaluate taper tomorrow.
   Hypotension: Off pressors.
   - IVFs as needed
   Acute renal failure: Cre up to 1.2, baseline 0.8-0.9. Likely pre-renal
   secondary to hypotension => intra-renal ATN (oliguric this AM).
   - urine sediment, urine electrolytes
   - await post-ATN diuresis
   - run Is=Os.
   - renally dose antibiotics
   Bradycardia: hemodynamically stable, likely vasovagal related (occurs
   mostly in sleep).
   - continue telemetry monitoring.
   HYPERGLYCEMIA
 Likely steroid induced. Added NPH (3 U [**Hospital1 **]).
   SCHIZOPHRENIA -- continue Zyprexa.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-1-30**] 12:00 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale + NPH
   Lines:
   Multi Lumen - [**2160-1-28**] 03:04 AM
   20 Gauge - [**2160-1-28**] 03:06 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Protonix
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: in ICU while intubated

2160-02-01 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2160-1-31**] 11:17 PM
   .
   -ABG 7.34/  so decreased FiO2 30%, repeat ABG 7.38/54/75/
   -placed A line
   -d/c'd solumedrol and started pred 40 [**Hospital1 **]
   - increased NPH to 6u [**Hospital1 **], glucose well controlled.
   -became hypertensive this morning, SBPs 140-160
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-30**] 08:00 AM
   Levofloxacin - [**2160-1-30**] 10:00 AM
   Piperacillin - [**2160-1-31**] 04:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-31**] 08:39 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-1-31**] 08:26 AM
   Heparin Sodium (Prophylaxis) - [**2160-2-1**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-2-1**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 62 (44 - 71) bpm
   BP: 139/72(89) {106/56(69) - 140/76(90)} mmHg
   RR: 16 (14 - 18) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 71.3 kg (admission): 72 kg
   Height: 62 Inch
    CVP: 24 (10 - 307)mmHg
   Total In:
                                                                  1,528 mL
                                                                    533 mL
   PO:
   TF:
                                                                    558 mL
                                                                    272 mL
   IVF:
                                                                    656 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  1,905 mL
                                                                    500 mL
   Urine:
                                                                  1,905 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -377 mL
                                                                     33 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 94%
   ABG: 7.38/54/75/34/4
   Ve: 6 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: intubated, sedated
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Opened eyes to voice
   Labs / Radiology
   347 K/uL
   11.5 g/dL
   165 mg/dL
   1.1 mg/dL
   34 mEq/L
   4.7 mEq/L
   34 mg/dL
   104 mEq/L
   142 mEq/L
   35.0 %
   10.7 K/uL
        [image002.jpg]
                            [**2160-1-30**]  04:50 AM
                            [**2160-1-30**]  08:00 AM
                            [**2160-1-30**]  02:59 PM
                            [**2160-1-30**]  09:26 PM
                            [**2160-1-30**]  10:35 PM
                            [**2160-1-31**]  12:27 AM
                            [**2160-1-31**]  03:31 AM
                            [**2160-1-31**]  04:18 AM
                            [**2160-2-1**]  12:35 AM
                            [**2160-2-1**]  05:00 AM
   WBC
   10.8
   11.5
   10.7
   Hct
   33.2
   33.6
   35.0
   Plt
   [**Telephone/Fax (3) 7169**]
   Cr
   1.3
   1.3
   1.2
   1.1
   TCO2
   28
   28
   30
   30
   30
   33
   Glucose
   179
   173
   138
   165
   Other labs: PT / PTT / INR:12.5/34.2/1.1, Differential-Neuts:92.8 %,
   Lymph:4.9 %, Mono:2.0 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Ca++:8.8
   mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   63 yo M w/ COPD and schizophrenia admitted for hypercarbic respiratory
   failure due to COPD exacerbation and multilobar PNA.
   # RESPIRATORY FAILURE
 Patient with hypercarbic respiratory distress,
   likely in setting of COPD exacerbation and multilobar PNA.  Attempted
   to wean twice in past 2 days, patient did not tolerate. Elevated CVPs
   not indicative of fluid volume overload, as patient has pulm HTN.
   - serial ABGs, maintain Ph < 7.35, pO2 < 60, SaO2 < 90.
   - continue Zosyn and  Levofloxacin, and add back Vanco as pt. has coag
   positive staph on sputum culture
   - continue Combivent nebs.
   - continue prednisone 40 PO BID for CODP flare (day 2), then plan for
   20 PO BID tomorrow.
   -SBT this AM, daily RSBI and wake-up
   .
   # Acute renal failure: U-lytes consistent with pre-renal azotemia. Cre
   down to 1.1, baseline 0.8-0.9.  Was -377 ml in 24 hours.
   - run Is=Os to slightly positive,
   - change levofloxacine dose given improved creatinine
   .
   # Hypotension: Resolved, off pressors for >48 hours
   .
   #Bradycardia: hemodynamically stable, likely vasovagal related (occurs
   mostly in sleep).
   - continue telemetry monitoring.
   .
   #Hypertension: Patient with no noted history of hypertension (just
   hypotension)
   -IV Hydralazine PRN SBP >170
   -EKG and cardiac enzymes
   -no nodal blocking [**Doctor Last Name **] given bradycardia
   -pain control
   .
   # HYPERGLYCEMIA
 Likely [**3-10**] steroids. NPH 6 units (increased from 3).
   BS well controlled.
    .
   # SCHIZOPHRENIA -- continue Zyprexa.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-1-31**] 10:32 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-1-28**] 03:04 AM
   Arterial Line - [**2160-1-31**] 11:17 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:  PPI
   VAP: precautions
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care

2160-02-01 12:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2160-1-31**] 11:17 PM
   Remains intubated, mechanically ventilated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-1-30**] 08:00 AM
   Piperacillin - [**2160-1-31**] 04:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2160-1-31**] 08:39 PM
   Levofloxacin - [**2160-2-1**] 10:29 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-2-1**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2160-2-1**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 50 (44 - 71) bpm
   BP: 139/72(89) {108/59(73) - 140/76(90)} mmHg
   RR: 14 (14 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 71.3 kg (admission): 72 kg
   Height: 62 Inch
   CVP: 16 (10 - 24)mmHg
   Total In:
                                                                  1,528 mL
                                                                    918 mL
   PO:
   TF:
                                                                    558 mL
                                                                    479 mL
   IVF:
                                                                    656 mL
                                                                    279 mL
   Blood products:
   Total out:
                                                                  1,905 mL
                                                                    970 mL
   Urine:
                                                                  1,905 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -377 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.38/54/75/34/4
   Ve: 6.7 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   347 K/uL
   165 mg/dL
   1.1 mg/dL
   34 mEq/L
   4.7 mEq/L
   34 mg/dL
   104 mEq/L
   142 mEq/L
   35.0 %
   10.7 K/uL
        [image002.jpg]
                            [**2160-1-30**]  04:50 AM
                            [**2160-1-30**]  08:00 AM
                            [**2160-1-30**]  02:59 PM
                            [**2160-1-30**]  09:26 PM
                            [**2160-1-30**]  10:35 PM
                            [**2160-1-31**]  12:27 AM
                            [**2160-1-31**]  03:31 AM
                            [**2160-1-31**]  04:18 AM
                            [**2160-2-1**]  12:35 AM
                            [**2160-2-1**]  05:00 AM
   WBC
   10.8
   11.5
   10.7
   Hct
   33.2
   33.6
   35.0
   Plt
   [**Telephone/Fax (3) 7169**]
   Cr
   1.3
   1.3
   1.2
   1.1
   TCO2
   28
   28
   30
   30
   30
   33
   Glucose
   179
   173
   138
   165
   Other labs: PT / PTT / INR:12.5/34.2/1.1, Differential-Neuts:92.8 %,
   Lymph:4.9 %, Mono:2.0 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Ca++:8.8
   mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Respiratory failure, COPD exacerbation.
   RESPIRATORY FAILURE -- hypercarbic respiratory failure.  Required
   re-intubation, mechanical ventilation.  Attributed to COPD
   exacerbation, with evidence for multilobar pneumonia.  Slow progress,
   suspect will require additional support prior to working towards
   extubation.  Limited evidence for auto-PEEP.  Monitor ABG, maintain Ph
   < 7.35, pO2 > 60, SaO2 > 90.
   COPD -- exacerbation.  continue medications, including steroids
   continue iv.
   PULMONARY INFILTRATES -- suspect community acquired pneumonia.
   Multifocal, concerns include usual pyogenic, atypicals (including
   viral).  Continue empirical antimicrobials.
   HYPOTENSION -- Resolved.  Monitor BP, maintain MAP >60 mmHg.
   RENAL FAILURE
 improved.  Prerenal.
   SEPSIS
 responding to clinical management.  Continue support.
   FLUIDS --  Repleted.  Monitor I/O.
   NUTRITIONAL SUPPORT
 continue TF.
   PULMONARY HTN -- Clinically stable.  Contributing to hypoxemia.
   HYPERGLYCEMIA -- attributed in part to steroids.  Improved control.
   Monitor glucose, maintain <150 with insulin prn.
   SCHIZOPHRENIA -- continue usual meds.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-2-1**] 10:55 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-1-28**] 03:04 AM
   Arterial Line - [**2160-1-31**] 11:17 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2160-02-02 07:34:00 Physician Resident Progress Note
Chief Complaint: 63 yo M with COPD and schizophrenia admitted with
   hypercarbic respiratory distress due to multilobar PNA and COPD flare.
   24 Hour Events:
   -started Vanco for GPCs in sputum->speciated to MRSA
   -Had RSBI, apneic, turned down sedation
   -Became hyptertensive, got IV hydral at 7pm->SBPs still 170s, so gave
   20IV lasix (8L positive for LOs, looked edematous)->  -1.7 L over 36
   hrs.
   -CE negative, EKG unchanged
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2160-1-31**] 04:26 AM
   Levofloxacin - [**2160-2-1**] 10:29 AM
   Vancomycin - [**2160-2-1**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-2-2**] 04:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2160-2-1**] 08:12 PM
   Hydralazine - [**2160-2-1**] 08:20 PM
   Other medications:
   Prednisone 40 mg PO BID
   Haloperidol 2 mg IV q4H:PRN
   Lorazepam IV PRN
   Olanzapine 5 mg PO QHS
   Combivent nebs
   Senna
   Bisacodyl
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-2-2**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 52 (44 - 80) bpm
   BP: 118/57(71) {108/50(64) - 152/78(96)} mmHg
   RR: 14 (14 - 16) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 71.3 kg (admission): 72 kg
   Height: 62 Inch
    CVP: 15 (7 - 20)mmHg
   Total In:
                                                                  2,267 mL
                                                                    595 mL
   PO:
   TF:
                                                                    960 mL
                                                                    299 mL
   IVF:
                                                                    987 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                  3,850 mL
                                                                    830 mL
   Urine:
                                                                  3,850 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,583 mL
                                                                   -235 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 93%
   ABG: 7.47/51/72/39/11
   Ve: 6.5 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: No(t) Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   368 K/uL
   12.0 g/dL
   124 mg/dL
   1.1 mg/dL
   39 mEq/L
   4.1 mEq/L
   34 mg/dL
   97 mEq/L
   140 mEq/L
   35.2 %
   14.3 K/uL
        [image002.jpg]
                            [**2160-1-30**]  10:35 PM
                            [**2160-1-31**]  12:27 AM
                            [**2160-1-31**]  03:31 AM
                            [**2160-1-31**]  04:18 AM
                            [**2160-2-1**]  12:35 AM
                            [**2160-2-1**]  05:00 AM
                            [**2160-2-1**]  08:46 PM
                            [**2160-2-2**]  04:04 AM
                            [**2160-2-2**]  06:30 AM
                            [**2160-2-2**]  06:36 AM
   WBC
   11.5
   10.7
   14.3
   Hct
   33.6
   35.0
   35.2
   Plt
   [**Telephone/Fax (3) 7189**]
   Cr
   1.2
   1.1
   1.1
   1.1
   TropT
   <0.01
   TCO2
   30
   30
   30
   33
   35
   38
   Glucose
   138
   165
   133
   124
   Other labs: PT / PTT / INR:13.1/32.3/1.1, CK / CKMB /
   Troponin-T:15/2/<0.01, Differential-Neuts:92.8 %, Lymph:4.9 %, Mono:2.0
   %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   63 yo M w/ COPD and schizophrenia admitted for hypercarbic respiratory
   failure due to COPD exacerbation and multilobar PNA.
   # RESPIRATORY FAILURE
 Patient with hypercarbic respiratory distress,
   likely in setting of COPD exacerbation and multilobar PNA.  Required
   intubation x2. More alkalotic today, likely in setting of diuresis.
   - serial ABGs, maintain Ph < 7.35, pO2 < 60, SaO2 < 90.
   - decrease RR to 10 to increase CO2 retention.
   - diuresis with diamox, goal -500 ccs to -1L
   - continue Zosyn, Vancomycin
   - d/c Levofloxacin
   - continue Combivent nebs.
   - decreased prednisoneto 20 PO BID
   -SBT this AM, daily RSBI and wake-up
   .
   # Acute renal failure: U-lytes consistent with pre-renal azotemia. Cre
   down to 1.1, baseline 0.8-0.9.  Was -377 ml in 24 hours.  [**Month (only) 60**] have had
   a component of ATN with autodiuresis currently.
   .
   # Hypotension: Resolved, off pressors for >48 hours
   #Bradycardia: hemodynamically stable, likely vasovagal related (occurs
   mostly in sleep).
   - continue telemetry monitoring.
   #Hypertension: Patient with no noted history of hypertension (just
   hypotension). Likey due to hypervolemia from recent fluid
   resusucitation after hypotension.
   -diuresis as above.
   -IV Hydralazine PRN SBP >170
   -EKG and cardiac enzymes
   -no nodal blocking [**Doctor Last Name **] given bradycardia
   -pain control
   #: Leukocytosis: still receiving steroids, although with slight
   temperature today. On broad spectrum antibiotics. Urine appears cloudy
   today. Oldest line is IJ place on [**1-28**], appears non-tender to
   palpation.
   - urine culture.
   # HYPERGLYCEMIA
 Likely [**3-10**] steroids. NPH increased to 10 U [**Hospital1 **].
   # SCHIZOPHRENIA -- continue Zyprexa and PRN haldol.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-2-1**] 11:20 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2160-1-28**] 03:04 AM
   Arterial Line - [**2160-1-31**] 11:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU while intubated
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 63 yo M with copd on home O2, secondary pHTN,
   schizophrenia admitted with hypercarbic resp failure in setting of copd
   exac and pna. Has failed extubation X 2. Overnight became apneic during
   SBT.  Sedation decreased.  Hypertensive with hydral and lasix given.
   Sputum now growing GPC (MRSA) with vanco restarted.
   Exam notable for Tm 99.4 BP 118/57  HR 52 RR  with sat on ACV
   500/14/5/30% --> 7.47/51/72.
   Intubated and sedated, CTA anteriorly, distant BS, rr distant HS, NABS,
   soft, trace pitting dependent edema
   Labs notable for WBC 14.3 (10.7) K, HCT 35.2, 140 na, 4.1 K+, serum CO2
   38, Cr 1.1, lactate 1.2.
   CXR with lines, et ok, pulm infiltrates improved overall, unchanged c/t
   yesterday, full hilar vessels
   Primary issues remain:
     * Resp failure
     * Pna
     * COPD
     * resp alkalosis and chronic CO2 retention
     * Volume overload
     * leukocytosis
     * HOTN--> now with htn
     * Hyperglycemia
     * schizophrenia
   Acid base status, sedation, and volume seem to be main issues
   preventing extubation.
   Agree with plan to optimize acid base status (correct alkalosis) by
   decreasing RR to 10 and following abgs. Diuresis likely contributing to
   met alkalosis and in setting of chronic CO2 retention this may
   contribute to low resp drive and failure to wean.  Continue MDIs. Taper
   prednisone to 20 today.  Now with MRSA in sputum--no other bacterial cx
   pos.  Will d/c levoflox and continue vanco/zosyn, consider d/c zosyn
   after 1 additional day.   Aim to maintain baseline CO2 elevation with
   compensated ph to assist with wean.  Continue to follow i/o's with goal
   neg fluid balance--give lasix/diamox to maintain net neg balance as
   needed.  HOTN resolved and actually hypertensive last night which
   responded to diuresis.  Will add Hydral as needed. Hyperglycemia under
   improved control with NPH and SSI, Tapering steroids should aid this
   further.. new leukocytosis but af (on steroids)--will check u/a and cx,
   cx blood if temp spike or clinical change.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2160-2-2**] 03:45 PM ------

2160-02-03 08:13:00 Physician Resident Progress Note
Chief Complaint: 63 yo M with COPD and schizophrenia currently
   intubated for hypercarbic respitatory distress.
   24 Hour Events:
   -ABG alkalotic, decreased RR to 10
   => 7.47/51/72 => 7.43/57/63/39
   -tapered prednisone to 20 mg PO BID, keep at same dose tomorrow
   -leukocytosis to 14, sent urine cx, u/a
   -no diuresis given alkalosis yesterday, I/O +300 ccs this AM
   -increased NPH to 10 U [**Hospital1 **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2160-2-2**] 10:00 AM
   Vancomycin - [**2160-2-2**] 08:08 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-2-3**] 04:39 AM
   Infusions:
   Fentanyl - 40 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2160-2-2**] 03:00 PM
   Fentanyl - [**2160-2-2**] 03:40 PM
   Other medications:
   Prednisone 20 mg PO BID
   ISS + NPH 10 U [**Hospital1 **]
   Haldol and Ativan IV PRN
   Olanzapine 5 mg PO daily
   Senna
   Bisacodyl
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-2-3**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 49 (49 - 91) bpm
   BP: 118/57(71) {0/0(0) - 0/0(0)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 71.3 kg (admission): 72 kg
   Height: 62 Inch
    CVP: 8 (8 - 20)mmHg
   Total In:
                                                                  2,479 mL
                                                                    541 mL
   PO:
   TF:
                                                                    961 mL
                                                                    325 mL
   IVF:
                                                                  1,238 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                    820 mL
   Urine:
                                                                  1,970 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    509 mL
                                                                   -279 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 157
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/57/63/39/10
   Ve: 8.1 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   344 K/uL
   12.1 g/dL
   157 mg/dL
   1.2 mg/dL
   39 mEq/L
   3.9 mEq/L
   35 mg/dL
   97 mEq/L
   139 mEq/L
   35.6 %
   13.8 K/uL
        [image002.jpg]
                            [**2160-1-31**]  04:18 AM
                            [**2160-2-1**]  12:35 AM
                            [**2160-2-1**]  05:00 AM
                            [**2160-2-1**]  08:46 PM
                            [**2160-2-2**]  04:04 AM
                            [**2160-2-2**]  06:30 AM
                            [**2160-2-2**]  06:36 AM
                            [**2160-2-2**]  02:21 PM
                            [**2160-2-2**]  05:25 PM
                            [**2160-2-3**]  03:34 AM
   WBC
   11.5
   10.7
   14.3
   13.8
   Hct
   33.6
   35.0
   35.2
   35.6
   Plt
   [**Telephone/Fax (3) 7209**]44
   Cr
   1.2
   1.1
   1.1
   1.1
   1.2
   1.2
   TropT
   <0.01
   TCO2
   33
   35
   38
   38
   39
   Glucose
   138
   165
   133
   124
   129
   157
   Other labs: PT / PTT / INR:13.1/32.3/1.1, CK / CKMB /
   Troponin-T:15/2/<0.01, Differential-Neuts:92.8 %, Lymph:4.9 %, Mono:2.0
   %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:5.1 mg/dL
   Assessment and Plan
   63 yo M w/ COPD and schizophrenia admitted for hypercarbic respiratory
   failure due to COPD exacerbation and multilobar PNA.
   # RESPIRATORY FAILURE
 Patient with hypercarbic respiratory distress,
   likely in setting of COPD exacerbation and multilobar PNA.  Required
   intubation x2. Respiratory alkalosis improved with increased RR on vent
   settings.
   - serial ABGs, maintain Ph < 7.35, pO2 < 60, SaO2 < 90.
   - continue current vent settings (RR 10)
   - diuresis with IV diamox, goal -1L
   - continue Vancomycin (day 7, but was off for 2 days, so day 5 => needs
   minimum 8 days course)
   - d/c Zosyn
   - continue Combivent nebs.
   - cont prednisoneto 20 PO BID, consider taper tomorrow to 10 [**Hospital1 **] if
   less expiratory wheezes
   -SBT tomorrow AM, daily RSBI and wake-up
   .
   # Acute renal failure: U-lytes consistent with pre-renal azotemia. Cre
   down to 1.2, baseline 0.8-0.9.
   [**Month (only) 60**] have had a component of ATN with autodiuresis currently.  Diuresis
   as above with PM lytes.
   .
   # Hypotension: Resolved, off pressors for >48 hours
   #Bradycardia: hemodynamically stable, likely vasovagal related (occurs
   mostly in sleep).
   - continue telemetry monitoring.
   #Hypertension: Patient with no noted history of hypertension (just
   hypotension). Usually associated with agitation, although is volume
   overloaded on exam. Must control hypertension prior to extubation, as
   may worsen with removal of PPV and resulting increased preload +
   agitation of extubation.
   -diuresis as above.
   -IV Hydralazine q6H for  SBP >170 (no labetolol given hx of COPD).
   -no nodal blocking [**Doctor Last Name **] given bradycardia
   -pain control
   #: Leukocytosis: resolving on tapered steroids. On Vancomycin. No
   fevers. Oldest line is IJ place on [**1-28**], appears non-tender to
   palpation. u/a with trace leuks and bact, neg nitrites.
   - f/u urine culture.
   # HYPERGLYCEMIA
 Likely [**3-10**] steroids.cont NPH 10 U [**Hospital1 **].
   # SCHIZOPHRENIA -- continue Zyprexa and PRN haldol.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2160-2-3**] 12:04 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2160-1-28**] 03:04 AM
   Arterial Line - [**2160-1-31**] 11:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: in ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 63 yo M with copd on home O2, secondary pHTN,
   schizophrenia admitted with hypercarbic resp failure in setting of copd
   exac and pna. Has failed extubation X 2.
   Overnight remained on ACV.  Held on additional diuresis.  Insulin
   regimen increased with improved BS control.
   Exam notable for Tm AF BP 118/57  HR 49-91 RR  12 on ACV 500/10/5/30%
   --> 7.43/57/63  +300cc
   Intubated, agitated and awake, following commands, distant BS
   intermittent expiratory wheeze, distant BS, rr distant HS, NABS, soft,
   trace pitting dependent edema
   Labs notable for WBC 13.8 K, HCT 35.6, 139 na, 4.1 K+, serum CO2 39,
   Cr 1.2
   CXR with lines, et ok, pulm infiltrates improved overall, unchanged c/t
   yesterday, continues to have full hilar vessels
   Primary issues remain:
     * Resp failure
     * Pna
     * COPD
     * resp alkalosis and chronic CO2 retention
     * Volume overload
     * leukocytosis
     * HOTN--> now with htn
     * Hyperglycemia
     * schizophrenia
   Acid base status, sedation and agitation, and volume seem to be main
   issues preventing extubation.
   Agree with plan to continue to optimize acid base status--am abg
   improved from prior with CO2 57 (closer to pt's baseline, less
   alkalotic).  Continues to have volume overload on imaging and met
   alkalosis as well as htn which are all further contributing to his
   difficulty tolerating extubation.  Will trial diamox fro met
   alk.  Start standing hydral and gentle sedation to improve BPs.
   Slightly wheezy on exam--will hold at prednisone at 20 today and
   continue MDIs. SBT in am and will likely need extubation to noninvasive
   ventilation.  [**Month (only) 60**] be heading toward trach. Leukocytosis trending down
   and remains af (on steroids)-->+ MRSA in sputum--no other bacterial cx
   pos.  Will d/c zosyn today and continue 8 day course of
   vanco. Secretions are better.  Continue to follow i/o's with goal neg
   fluid balance--give lasix/diamox to maintain net neg balance as
   needed.  Hyperglycemia under improved control--continuing NPH and SSI.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2160-2-3**] 13:57 ------

2160-02-05 08:03:00 Physician Resident Progress Note
Chief Complaint: Dyspnea, hypercarbic respiratory failure
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2160-2-4**] 03:39 PM
   - Prednisone dose was decreased to 10 mg [**Hospital1 **]
   - Patient was diuresed with Diamox
   - Patient's sedation was lightened and he was extubated following AM
   rounds
   - At 1835, several hours post extubation, patient's blood gas was
   7.40/51/92 on face mask with 35% FiO2.
   - At midnight, blood gas on room air was 7.42/49/74
   - At 0010 had FSBG of 63 and received [**2-7**] amp of D50
   - AM blood sugar was in the 70s and soft diet was started
   - Insulin was discontinued
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2160-2-2**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2160-2-3**] 04:39 AM
   Vancomycin - [**2160-2-5**] 07:29 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2160-2-4**] 09:00 AM
   Dextrose 50% - [**2160-2-5**] 12:38 AM
   Pantoprazole (Protonix) - [**2160-2-5**] 07:29 AM
   Heparin Sodium (Prophylaxis) - [**2160-2-5**] 07:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-2-5**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 78 (52 - 103) bpm
   BP: 142/73(91) {102/51(63) - 157/93(111)} mmHg
   RR: 21 (11 - 33) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.3 kg (admission): 72 kg
   Height: 62 Inch
             Total In:
                                                                  1,675 mL
                                                                    323 mL
   PO:
             TF:
                                                                    439 mL
   IVF:
                                                                    956 mL
                                                                    298 mL
   Blood products:
   Total out:
                                                                  4,275 mL
                                                                  1,580 mL
   Urine:
                                                                  4,275 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,600 mL
                                                                 -1,257 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 521 (521 - 521) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 11 cmH2O
   SpO2: 90%
   ABG: 7.43/48/71/31/6
   Ve: 12.9 L/min
   PaO2 / FiO2: 237
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   423 K/uL
   12.8 g/dL
   72 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.6 mEq/L
   30 mg/dL
   104 mEq/L
   141 mEq/L
   37.5 %
   18.9 K/uL
        [image002.jpg]
                            [**2160-2-3**]  05:07 PM
                            [**2160-2-3**]  06:00 PM
                            [**2160-2-4**]  03:54 AM
                            [**2160-2-4**]  08:31 AM
                            [**2160-2-4**]  03:21 PM
                            [**2160-2-4**]  06:18 PM
                            [**2160-2-4**]  06:35 PM
                            [**2160-2-5**]  12:53 AM
                            [**2160-2-5**]  05:00 AM
                            [**2160-2-5**]  05:16 AM
   WBC
   15.0
   18.9
   Hct
   39.1
   37.5
   Plt
   394
   423
   Cr
   1.0
   0.9
   1.0
   1.0
   TCO2
   35
   33
   33
   33
   33
   Glucose
   134
   131
   115
   148
   72
   Other labs: PT / PTT / INR:13.1/32.3/1.1, CK / CKMB /
   Troponin-T:15/2/<0.01, Differential-Neuts:92.8 %, Lymph:4.9 %, Mono:2.0
   %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
   63 yo M w/ COPD and schizophrenia admitted for hypercarbic respiratory
   failure due to COPD exacerbation and multilobar PNA.
   # RESPIRATORY FAILURE
 Patient with hypercarbic respiratory distress,
   likely in setting of COPD exacerbation and MRSA PNA.  Required
   intubation x2. Patient
s pulmonary status appears improved (less
   wheezing, ABG at goal) with treatment of respiratory alkalosis with
   decreased RR, antibiotics treatment of PNA, and removal of fluid with
   diuresis (-2 L yesterday with diamox) administered during fluid
   resuscitation/weaning of pressors
   - serial ABGs, maintain Ph < 7.35, pO2 < 60, SaO2 < 90 (ABG at goal
   today)
   - continue diuresis with IV diamox, goal -1L and PM lytes
   - continue Vancomycin (day [**8-14**])
   - continue Combivent nebs.
   - taper prednisone to 10 [**Hospital1 **]
   - wean sedatin and attempt SBT today. If not hypercarbic on PS with
   appropriate RSBI, attempt extubation today.
   - if fails extubation, will need discussion of court appointed
   guardianship for trach
   # Acute renal failure: U-lytes consistent with pre-renal azotemia. Cre
   back to baseline of 0.9
   Diuresis as above with PM lytes.
   # Hypotension: Resolved, off pressors for >48 hours
   #Bradycardia: hemodynamically stable, likely vasovagal related (occurs
   mostly in sleep).
   - continue telemetry monitoring.
   #Hypertension: Patient with no noted history of hypertension (just
   hypotension). Usually associated with agitation, although is volume
   overloaded on exam. Must control hypertension prior to extubation, as
   may worsen with removal of PPV and resulting increased preload +
   agitation of extubation.
   -diuresis as above.
   - continue PO hydralazine
    -no nodal blocking [**Doctor Last Name **] given bradycardia
   -pain control
   #: Leukocytosis: continues to be elevated, likely due to steroids. On
   Vancomycin. No fevers. Oldest line is IJ place on [**1-28**], appears
   non-tender to palpation. u/a with trace leuks and bact, neg nitrites.
   Urine culture w/o growth.
   -continue steroid taper
   # HYPERGLYCEMIA
 Likely [**3-10**] steroids.cont NPH 10 U [**Hospital1 **] with better BS
   control.
   # SCHIZOPHRENIA -- continue Zyprexa and PRN haldol.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-1-28**] 03:04 AM
   Arterial Line - [**2160-1-31**] 11:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-02-06 08:23:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   24 Hour Events:
 MULTI LUMEN - STOP [**2160-2-5**] 11:08 AM
 ARTERIAL LINE - STOP [**2160-2-5**] 11:10 AM
   - successfully extubated on [**2-5**]
   - case management: pt has maxed out home/elder services, has refused to
   go to rehab in the past. [**Hospital1 54**] CM + CM from DMH familiar w/ him will
   meet w/ patient @ 1 pm on [**2-6**] to convince him to go to rehab. [**Month (only) 60**]
   need to address competency if patient refuses.
   - PT recommending acute level pulmonary rehab - pt would like to go to
   [**Hospital3 **] because closer to family/friends, but that program does
   not have the pulmonary rehab ideal for him (being screened by U-ville).
   - d/c-ed IJ and A-line
   - elevated leukcocytosis to 18 and on abx => checked C. diff toxin
   assay.
   - advanced diet to dysphagia diet
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-2-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-2-6**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Integumentary (skin): No(t) Rash
   Flowsheet Data as of  [**2160-2-6**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 71 (68 - 99) bpm
   BP: 142/75(92) {114/35(57) - 163/86(99)} mmHg
   RR: 36 (26 - 44) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.3 kg (admission): 72 kg
   Height: 62 Inch
                  Total In:
                                                                    666 mL
                  PO:
                  TF:
   IVF:
                                                                    641 mL
   Blood products:
   Total out:
                                                                  3,610 mL
                                                                  1,400 mL
   Urine:
                                                                  3,610 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,944 mL
                                                                 -1,400 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   415 K/uL
   13.5 g/dL
   90 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.7 mEq/L
   25 mg/dL
   106 mEq/L
   145 mEq/L
   40.1 %
   20.2 K/uL
        [image002.jpg]
                            [**2160-2-3**]  06:00 PM
                            [**2160-2-4**]  03:54 AM
                            [**2160-2-4**]  08:31 AM
                            [**2160-2-4**]  03:21 PM
                            [**2160-2-4**]  06:18 PM
                            [**2160-2-4**]  06:35 PM
                            [**2160-2-5**]  12:53 AM
                            [**2160-2-5**]  05:00 AM
                            [**2160-2-5**]  05:16 AM
                            [**2160-2-6**]  04:45 AM
   WBC
   15.0
   18.9
   20.2
   Hct
   39.1
   37.5
   40.1
   Plt
   394
   423
   415
   Cr
   0.9
   1.0
   1.0
   1.0
   TCO2
   35
   33
   33
   33
   33
   Glucose
   131
   115
   148
   72
   90
   Other labs: PT / PTT / INR:13.1/32.3/1.1, CK / CKMB /
   Troponin-T:15/2/<0.01, Differential-Neuts:92.8 %, Lymph:4.9 %, Mono:2.0
   %, Eos:0.1 %, Lactic Acid:1.2 mmol/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 HYPERTENSION, BENIGN
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
   63 yo M w/ COPD and schizophrenia admitted for hypercarbic respiratory
   failure due to COPD exacerbation and multilobar PNA.
   # RESPIRATORY FAILURE:
   Patient with hypercarbic respiratory distress, likely in setting of
   COPD exacerbation and MRSA PNA.  Required intubation x2. Successfully
   extubated [**2-5**]. Patient was restarted on his home advair yesterday;
   however, appears to be unable to appropriately use the medications
   despite education and coaching from respiratory therapist. Also on
   albuterol and ipratropium nebs.
   - No need to continue diuresisat this time
   - Finished 8 day course Vancomycin
   - Continue Albuterol/ ipratropom nebs
   - Continue prednisone 10 mg [**Hospital1 **]  for now- pt unable to properly take
   inhaled steroids
   # BRADYCARDIA:
   Hemodynamically stable, likely vasovagal related (occurs mostly in
   sleep).
   - continue telemetry monitoring.
   # HYPERTENSION:
   Patient with no noted history of hypertension (just hypotension).
   Usually associated with agitation. Hypertension at time of extubation,
   was controlled with diuresis and a nitro drip which is now off with
   cuff pressures normotensive. A line removed yesterday.
   - Continue PO hydralazine
 uptitrated to 25mg Q 8hrs today
    #: LEUKOCYTOSIS:
   Continues to increase, likely partially due to steroids, though would
   not expect to be increasing in this setting. No fevers. All urine and
   blood cultures and negative with no growth on final reads.
   -rpt UA and Urine Cx, CXR
   - C.diff toxin assay
   # HYPERGLYCEMIA / HYPOGLYCEMIA:
   Hyperglycemia was likely secondary to steroids and thus patient was put
   on NPH [**Hospital1 **].  Now normoglycemic and off insulin
   # SCHIZOPHRENIA -- continue Zyprexa and PRN haldol.
   ICU Care
   Nutrition: Regular heart healthy diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2160-2-5**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments: Pt
s DMH worker [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] contact[**Name (NI) **] today-
   would like him to get ball rolling for guardianship as outpt. Pt likely
   to be intubated again and will need someone to make decisions for him
   in that case.
   Code status: Full code
   Disposition:Transfer to floor